datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[Si:61](C)(C)[CH:10]=[N+:11]=[N-:12]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([N+:11]#[N:12])[Si:61](C)(C)C)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[N-:10][C:61](C(F)(F)F)=[O:62]>>CC(C)(C)[C:22](=[CH:21][CH:20]([N:10](C)[C:61](C(F)(F)F)=[O:62])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61](C2=CC=CC=C2)=[O:62])C=C1.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:61](C1=CC=CC=C1)=[O:62])[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C1C[N:72]([C:61]([S-:10])=[S:62])CCO1>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([S:10][C:61](=[S:62])[N:72]3CCOCC3)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH:10]2)C=C1.C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1>>C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH+:10]2[CH:20]([N:21]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21"
"C1=CC=C(CC2CCC[NH:10]2)C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([NH+:10]2CCCC2CC2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:21]3=[CH:22][N:23](C)C4=CC=CC=C43)[C:31]3=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[N:12]1CCOCC1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=CC=C1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)CC[N:63]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH2:20].C[N:10](C)[NH2:61]>>C[N+:10](C)([CH2:20][N:21](C)C)[NH2:61] 10=20;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10]>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH2:10][C:11](C)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.[H:10][BH3-:11]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.[BH3:11] 10,11=10,20;20,21=21"
"C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C[C+:11]([CH2:10][F:20])[CH2:62][Si:63](Cl)(Cl)Cl.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;20,21=21"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([NH+:10]2CCC[C@H]2C(N=[N+]=[N-])(C2=CC=CC=C2)C2=CC=CC=C2)[N-:21]1 10=20;20,21=21"
"C1C[S:31][CH+:20][S:41]C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(Cl)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(Cl)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]2[S:31]CCC[S:41]2)S1 10,11=10,20;12=11,12"
